US07230011B2
4-Chlorobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester
By a method similar to Example 31, using 4-chlorobenzenesulfonyl chloride (242 mg, 1.15 mmol) and 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole (220 mg, 0.96 mmol), 0.2 N sodium hydroxide (5.5 mL, 1.1 mmol) gave 380 mg of a white solid. The crude product was recrystallized from ethyl acetate/hexanes to give 300 mg (78%) of the title compound as an off white powder: mp=182-183.5° C.; MS(m/e): 404 (M+); Calculated for C20H21ClN2O3S: C, 59.33; H, 5.23; N, 6.92. Found: C, 59.24; H, 5.22; N, 6.90.

reactant | 4-chlorobenzenesulfonyl chloride | 1.15 mmol, 242 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 0.96 mmol, 220 mg | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)O | C14H18N2O
reactant | sodium hydroxide | 1.1 mmol, 0.2 N, 5.5 mL | [OH-].[Na+]
product | 4-Chlorobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester | 380 mg | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)OS(=O)(=O)C1=CC=C(C=C1)Cl | C20H21ClN2O3S
